US07989444B2
Preparation 46: 1,1-dimethylethyl 2-methyl-5,6,8,9-tetrahydro-7H-[1,3]thiazolo[4,5-h][3]benzazepine-7-carboxylate
1,1-dimethylethyl 7-(ethanethioylamino)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (411 mg), was dissolved in MeOH (12 ml), and 1N NaOH (6.1 ml) and added to potassium ferricyanide [K3Fe(CN)6] (2.1 g), in H2O (12 ml). This mixture was warmed up to 60° C. for 1.5 h, cooled at rt. concentrated and the material thus obtained was purified by flash chromatography over silica gel, eluting with 20% ethyl acetate in hexane, affording a 2:1 mixture of title compound and its regioisomer (167 mg) that was further used as such.

reactant | 1,1-dimethylethyl 7-(ethanethioylamino)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 411 mg | C(C)(=S)NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C17H24N2O2S
reactant | NaOH | 1N, 6.1 ml | [OH-].[Na+]
solvent | MeOH | 12 ml | CO | CH4O
solvent | H2O | 12 ml | O | H2O
catalyst | potassium ferricyanide | 2.1 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 1,1-dimethylethyl 2-methyl-5,6,8,9-tetrahydro-7H-[1,3]thiazolo[4,5-h][3]benzazepine-7-carboxylate | CC=1SC2=CC3=C(CCN(CC3)C(=O)OC(C)(C)C)C=C2N1 | C17H22N2O2S
